US05665747
4-Methyl-2-trifluoroacetyloxazole
1-Trifluoroacetylimidazole (10 g) was added to a stirred solution of 4-methyl-2-trimethylsilyloxazole (J. Chem. Soc., Chem. Commun., 1984, 258) (9.95 g) in diethyl ether (100 ml) at 0° C. After 20 hours, water was added. The organic phase was separated, dried and evaporated and the residue was purified by flash chromatography to give the title compound as the corresponding hydrate.

reactant | 1-Trifluoroacetylimidazole | 10 g | FC(C(=O)N1C=NC=C1)(F)F | C5H3F3N2O
reactant | 4-methyl-2-trimethylsilyloxazole | 9.95 g | CC=1N=C(OC1)[Si](C)(C)C | C7H13NOSi
reactant | water | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-Methyl-2-trifluoroacetyloxazole | CC=1N=C(OC1)C(C(F)(F)F)=O | C6H4F3NO2
